US05238949
To a stirred solution of N-(2,4,6-trimethylbenzylidene)-2-chloro-5-pyridylmethylamine (10.9 g) in dried tetrahydrofuran (150 ml) cooled to -70° C. under N2 atmosphere was added butyl-lithium (10 w/v % in hexane, 26 ml), causing an immediate intense color to occur. After 30 minutes stirring at the temperature, methyl iodide (5.7 g) was added dropwise, and then the mixture was stirred for three hours without cooling. The solvent was removed under reduced pressure. To the residue, ethanol (50 ml) and 2N-hydrochloric acid (50 ml) were added and heated under reflux for one hour. The cooled solution was poured into water (100 ml) and extracted with methylene chloride (50 ml×2). The aqueous fraction was neutralized with 2N-sodium hydroxide and extracted with methylene chloride (50 ml×2). The extract was dried over sodium sulfate and evaporated to obtain 1-(2-chloro-5-pyridyl)ethylamine (4 g). nD20 1.5440

reactant | N-(2,4,6-trimethylbenzylidene)-2-chloro-5-pyridylmethylamine | 10.9 g | CC1=C(C=NCC=2C=CC(=NC2)Cl)C(=CC(=C1)C)C | C16H17ClN2
reactant | butyl-lithium | 26 ml | C(CCC)[Li]
reactant | methyl iodide | 5.7 g | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-5-pyridyl)ethylamine | 4 g | ClC1=NC=C(C=C1)C(C)N | C7H9ClN2
